US04957930
4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-butynoic acid
A 1.6M solution of n-butyllithium in hexane (36 ml) was added dropwise over 40 minutes to a stirred, cooled (acetone/cardice bath) solution of 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}prop-2-yne (11.0 g) in tetrahydrofuran (110 ml) and the mixture allowed to warm to -40° over one hour. The mixture was then cooled to -60° and carbon dioxide bubbled through the stirred solution at that temperature for one hour. Carbon dioxide was then bubbled through the mixture for a further one hour whilst it was allowed to warm up to 0°. The mixture was then diluted with water (100 ml) and the layers separated. The aqueous layer was washed with diethyl ether, acidified to pH 1.0 with concentrated hydrochloric acid and extracted into dichloromethane. The combined dichloromethane extracts were dried over MgSO4 and evaporated and the residue triturated with methanol. The resulting solid was collected, washed with methanol and dried to give the title compound (8.87 g) as a hemihydrate containing half a mole of methanol of crystallisation, m.p. 100°.

reactant | n-butyllithium | C(CCC)[Li]
reactant | acetone cardice | CC(=O)C.C(=O)=O
reactant | 1-{[4-(2,3-dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}prop-2-yne | 11.0 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#C)C(=O)OCC | C21H21Cl2NO5
solvent | hexane | 36 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 4-{[4-(2,3-Dichlorophenyl)-3-ethoxycarbonyl-5-methoxycarbonyl-6-methyl-1,4-dihydropyrid-2-yl]methoxy}-2-butynoic acid | 8.87 g | ClC1=C(C=CC=C1Cl)C1C(=C(NC(=C1C(=O)OC)C)COCC#CC(=O)O)C(=O)OCC | C22H21Cl2NO7
